US07495007B2
Preparation of intermediate E/Z-6-chloro-3-(5-chloro-2-methyl-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-6-chloro-3-(5-chloro-2-methyl-benzylidene)-1,3-dihydro-indol-2-one (4.7 g, 15.5 mmol) in dichloromethane (10 mL) at r.t was added di-tert-butyl-dicarbonate (5.0 g, 15.5 mmol), followed by the addition of 4-dimethylaminopyridine (0.2 g, 1.6 mmol). The reaction mixture was stirred for 2 h and washed with 0.1N hydrochloride, then the solvent was removed to give title compound. (Yield: 5 g).

reactant | Z-6-chloro-3-(5-chloro-2-methyl-benzylidene)-1,3-dihydro-indol-2-one | 15.5 mmol, 4.7 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)C | C16H11Cl2NO
reactant | di-tert-butyl-dicarbonate | 15.5 mmol, 5.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.6 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-(5-chloro-2-methyl-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)C)=O | C21H19Cl2NO3
